US06294558B1
2-Methyl-5-[4-(methylsulfonyl)phenyl]-1-[4-(2-thiazolyl)phenyl]-1H-pyrrole
To a stirred solution of thiazole (0.072 g, 0.85 mmol) in anhydrous ether (2 mL) was added n-BuLi (0.58 mL, 1.61 M solution in hexane, 0.94 mmol) at −78° C. under nitrogen, the mixture was stirred for 30 minutes at −78° C., and then zinc chloride (2.55 mL, 1.0 M solution in ether, 2.55 mmol) was added at −78° C., the mixture was stirred for 30 minutes at −78° C. The reaction mixture was warmed to 0° C., and added the solution of 2-methyl 5-[4-(methylsulfonyl)phenyl]-1-(4-bromophenyl)-1H-pyrrole (0.3 g, 0.77 mmol) in THF (5 mL), tetrakis(triphenylphosphine)palladium (0) (0.088 g, 0.08 mmol). The reaction mixture was heated at reflux temperature for 19 hours, and cooled down to room temperature. The reaction mixture was filtered through celite, the filtrate was poured into water and the whole was extracted with ethyl acetate (20 mL×3). The organic layer was washed with brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash chromatography eluting with hexane/ethyl acetate (2/1). The resulting solid was recrystallized from CH2Cl2/hexane to give the title compound (0.040 g, 13.2% yield).

reactant | thiazole | 0.85 mmol, 0.072 g | S1C=NC=C1 | C3H3NS
reactant | n-BuLi | 0.94 mmol, 1.61 M, 0.58 mL | [Li]CCCC
reactant | 2-methyl 5-[4-(methylsulfonyl)phenyl]-1-(4-bromophenyl)-1H-pyrrole | 0.77 mmol, 0.3 g | CC=1N(C(=CC1)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)Br | C18H16BrNO2S
solvent | ether | 2 mL | CCOCC | C4H10O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride | 2.55 mmol, 1.0 M, 2.55 mL | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | 0.08 mmol, 0.088 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Methyl-5-[4-(methylsulfonyl)phenyl]-1-[4-(2-thiazolyl)phenyl]-1H-pyrrole | 0.040 g, 13.2% yield | CC=1N(C(=CC1)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)C=1SC=CN1 | C21H18N2O2S2
